US06777428B1
4-(3-nitrobenzoyl)-1-trifluoromethylcarbonylpiperidine (4.9 g (0.0148 mol)) and 4-(2-nitrobenzoyl)-1-trifluoromethylcarbonylpiperidine (67:33) were added to isopropanol (100 mL) and HCl 37% (15 mL). The suspension was refluxed for 10 h to complete the hydrolysis. The reaction was monitored by TLC [silica gel/ethyl acetate-hexane (2:3)]. The resulting yellow solution was allowed to cool to room temperature and the resulting suspension was post-agitated for 10 h. The reaction mixture was then concentrated under reduce pressure and the residue was dried under vacuum for 16 h at 50° C. 4 g (100%) of 4-(3-nitrobenzoyl)piperidine HCl and 4-(2-nitrobenzoyl)piperidine HCl mixture were isolated as a light colored solid.

reactant | 4-(3-nitrobenzoyl)-1-trifluoromethylcarbonylpiperidine | 0.0148 mol, 4.9 g | [N+](=O)([O-])C=1C=C(C(=O)C2CCN(CC2)C(=O)C(F)(F)F)C=CC1 | C14H13F3N2O4
reactant | 4-(2-nitrobenzoyl)-1-trifluoromethylcarbonylpiperidine | [N+](=O)([O-])C1=C(C(=O)C2CCN(CC2)C(=O)C(F)(F)F)C=CC=C1 | C14H13F3N2O4
reactant | HCl | 15 mL | Cl | ClH
solvent | isopropanol | 100 mL | C(C)(C)O | C3H8O
product | 4-(3-nitrobenzoyl)piperidine HCl | 4 g, 100% | Cl.[N+](=O)([O-])C=1C=C(C(=O)C2CCNCC2)C=CC1 | InChI=1S/C12H14N2O3.ClH/c15-12(9-4-6-13-7-5-9)10-2-1-3-11(8-10)14(16)17;/h1-3,8-9,13H,4-7H2;1H
